US06306818B1
Carbonic acid benzyl ester hex-3-enyl ester
Starting Material: cis-3-hexenol and benzylchloroformate.

reactant | cis-3-hexenol | C(C\C=C/CC)O | C6H12O
reactant | benzylchloroformate | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | Carbonic acid benzyl ester hex-3-enyl ester | C(CC=CCC)OC(OCC1=CC=CC=C1)=O | C14H18O3
